US05102667
N,N'-Carbonyldiimidazole (1.13 g) is added to a solution of 3-chlorophenylacetic acid (1.19 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 15 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.28 g) and triethylamine (1.96 cc) in dichloromethane (20 cc) is then added. The reaction mixture is stirred at 20° C. for 16 hours, then washed with water (2×150 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The meringue obtained is crystallized from a mixture of acetonitrile (30 cc) and isopropyl ether (100 cc). The crystals are drained, washed with isopropyl ether and dried. (3aRS,7aRS)-7,7-diphenyl-2-[(3-chlorophenyl)acetyl]-4-perhydroisoindolone (2.2 g) is obtained in the form of white crystals melting at 179° C.

reactant | 3-chlorophenylacetic acid | 1.19 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.28 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.96 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[(3-chlorophenyl)acetyl]-4-perhydroisoindolone | 2.2 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=CC(=CC=C1)Cl)=O)=O)C1=CC=CC=C1 | C28H26ClNO2
